US04143055
2,3-dihydro-6-hydroxy-2-methyl-4-benzofurancarboxylic acid
To a solution of 35 grams of 2,3-dihydro-6-methoxy-2-methyl-4-benzofurancarboxylic acid methyl ester, prepared in Example 1, in 160 cc of acetic acid, 60 cc of 48%HBr are added and the resulting mixture is refluxed for 16 hours. After this time the reaction mixture is concentrated to dryness and the residue is dissolved in concentrated NaOH. The obtained solution, heated in a hot water-bath for 2 hours, is then cooled, acidified with concentrated HCl and extracted with ether. Evaporation of the ether extract affords a crude residue which is purified by column chromatography using a mixture CHCl3 -MeOH as the eluting system wherein the percentage of MeOH is gradually increased. The compound of the title, recovered from the last fractions (CHCl3 + 3% MeOH), is then crystallized from ethyl ether-petroelum ether. Yield 14.2 g (47 percent of theoretical). M.p. 225°-27° C.

reactant | 2,3-dihydro-6-methoxy-2-methyl-4-benzofurancarboxylic acid methyl ester | 35 grams | COC(=O)C=1C=C(C=C2C1CC(O2)C)OC | C12H14O4
reactant | HBr | Br | BrH
solvent | acetic acid | 160 cc | C(C)(=O)O | C2H4O2
product | 2,3-dihydro-6-hydroxy-2-methyl-4-benzofurancarboxylic acid | OC=1C=C2C(CC(O2)C)=C(C1)C(=O)O | C10H10O4
